US07067540B2
N-{4-[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]benzyl}-2-hydroxyacetamide
To a reaction vessel (borosilicate culture tube) was added approximately 1.95 g of polymer bound carbodiimide resin (0.96 mmol/g) followed by a stock solution of glycolic acid (5.8 mL, 0.10 M) in N,N-dimethylacetamide. A stock solution of 1-hydroxybenzotriazole in N,N-dimethylacetamide (0.4 mL, 0.10 M) and N-methylmorpholine in 1,2-dichloroethane (3.9 mL, 0.10 M) were added to the reaction vessel. The parallel reaction apparatus was then orbitally shaken (Labline Benchtop Orbital Shaker) at approximately 200 RPM at room temperature for 2 hours. A stock solution of 1-[4-(aminomethyl)phenyl]-4-(benzyloxy)-3-bromopyridin-2(1H)-one hydrochloride in N,N-dimethylacetamide (0.05 M, 7.8 mL) was then added to the reaction vessel and the reaction apparatus was orbitally shaken at room temperature overnight. At this time the reaction was diluted with 1,2-dichloroethane (8 mL) and treated with approximately 1.17 g of polyamine resin (2.63 mmol/g) and approximately 0.58 g of methylisocyanate functionalized polystyrene (1.50 mmol/g) and the orbital shaking was continued at 200 RPM at room temperature for 4 hours. The reaction vessel was then opened and the solution phase products were separated from the insoluble quenched byproducts by filtration and collection into a vial. After partial evaporation the insoluble byproducts were rinsed with N,N-dimethylacetamide (2×5 mL) and combined with the partially concentrated filtrate. The filtrate was concentrated by blowing N2 over the vial while heating (60° C.) in a reaction block (KEM-Lab Parallel Reactor) and subjected to chromatography (silica gel, ethyl acetate with 10% methanol/hexanes) which afforded an off white solid (0.081 g, 21%). 1H NMR (400 MHz, CD3OD) δ 7.55-7.30 (m, 10H), 6.51 (d, J=7.85 Hz, 1H), 5.37 (s, 2H), 4.52 (s, 2H), 4.08 (s, 2H). ES-HRMS m/z 443.0605 (M+H C21H19BrN2O4 requires 443.0601).

reactant | carbodiimide | N=C=N | CH2N2
reactant | glycolic acid | 0.10 M, 5.8 mL | C(CO)(=O)O | C2H4O3
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[4-(aminomethyl)phenyl]-4-(benzyloxy)-3-bromopyridin-2(1H)-one hydrochloride | Cl.NCC1=CC=C(C=C1)N1C(C(=C(C=C1)OCC1=CC=CC=C1)Br)=O
reactant | methylisocyanate | approximately 0.58 g | CN=C=O | C2H3NO
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 0.10 M, 0.4 mL | CN(C(C)=O)C | C4H9NO
solvent | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | 1,2-dichloroethane | 0.10 M, 3.9 mL | ClCCCl | C2H4Cl2
solvent | N,N-dimethylacetamide | 0.05 M, 7.8 mL | CN(C(C)=O)C | C4H9NO
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
product | N-{4-[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]benzyl}-2-hydroxyacetamide | 0.081 g, 21% | C(C1=CC=CC=C1)OC1=C(C(N(C=C1)C1=CC=C(CNC(CO)=O)C=C1)=O)Br | C21H19BrN2O4
